US05368971
zinc 3,5-di-t-butyl-2-methoxybenzoate (compound No. 1)
Five parts of 3,5-di-t-butyl-2-methoxybenzoic acid was added to 48 parts of water, followed by the dropwise addition of an aqueous solution of 1.2 parts of 96% potassium hydroxide in 2 parts of water. The resulting mixture was converted into a solution by heating to a temperature of 40° to 50° C. An aqueous solution of 2.7 parts of zinc sulfate heptahydrate in 10 parts of water was dropped into the solution at 60° C. over a period of 15 minutes. After the completion of the dropping, the obtained mixture was stirred at that temperature for 2 hours, cooled to a room temperature and filtered to recover a white crystalline precipitate. This precipitate was dispersed in 60 parts of water, washed therewith and filtered. The filter cake was dried to give 3.8 parts of a white crystal. The melting point thereof was 263° to 265° C.

reactant | 3,5-di-t-butyl-2-methoxybenzoic acid | C(C)(C)(C)C=1C(=C(C(=O)O)C=C(C1)C(C)(C)C)OC | C16H24O3
reactant | potassium hydroxide | [OH-].[K+]
reactant | zinc sulfate heptahydrate | O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Zn+2]
solvent | water | O | H2O
product | zinc 3,5-di-t-butyl-2-methoxybenzoate | C(C)(C)(C)C=1C(=C(C(=O)[O-])C=C(C1)C(C)(C)C)OC.[Zn+2].C(C)(C)(C)C=1C(=C(C(=O)[O-])C=C(C1)C(C)(C)C)OC | InChI=1S/2C16H24O3.Zn/c2*1-15(2,3)10-8-11(14(17)18)13(19-7)12(9-10)16(4,5)6;/h2*8-9H,1-7H3,(H,17,18);/q;;+2/p-2
